US05338740
B. 5-Bromo-1-chloro-indan
To a solution of 5-bromo-indan-1-ol (2.0 grams, 9.38 mmol) and pyridine (1.6 mL, 20 mmol)in CH2Cl2 (20 mL) at 0° C. was added thionyl chloride (2.2 grams, 1.30 mL, 18.7 mmol). The reaction mixture was allowed to warm slowly to room temperature. After 1 hour, the reaction mixture was cooled to 0° C., quenched with saturated aqueous NaHCO3 (10 mL) and diluted with CH2Cl2 (100 mL). The organic layer was separated and washed with saturated NaHCO3 (1×25 mL) and saturated aqueous NaCl (1×25 mL), dried over magnesium sulfate (MgSO4) and concentrated in vacuo to give a yellow oil. 1H NMR (250 MHz, CDCl3): d 7.4 (s, 1 H), 7.36 (d, 1 H), 7.20 (d, 1 H), 5.35 (dd, 1 H), 3.15 (m), 2.84 (m), 2.55 (m), 1.83 (m).

reactant | 5-bromo-indan-1-ol | 9.38 mmol, 2.0 grams | BrC=1C=C2CCC(C2=CC1)O | C9H9BrO
reactant | pyridine | 20 mmol, 1.6 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 18.7 mmol, 1.30 mL, 2.2 grams | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-1-chloro-indan | BrC=1C=C2CCC(C2=CC1)Cl | C9H8BrCl
